US04769465
N-(2-hydroxyethyl)-N-benzyl-methylamine is a known compound and is described in literature (J. Am. Chem. Soc. 76, 4920-23, 1954). The reaction of this compound with thionyl chloride gives N-(2-chloroethyl)-N-benzyl-methylamine in a good yield. This compound can also be prepared by reacting N-benzyl-methylamine with 1-bromo-2-chloroethane, the yields, however, are poor and the dimeric 1,2-bis(N-benzylmethylamino)ethane, which is formed as a by-product, must be separated by chromatography.

reactant | N-(2-hydroxyethyl)-N-benzyl-methylamine | OCCN(CC1=CC=CC=C1)C | C10H15NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | N-(2-chloroethyl)-N-benzyl-methylamine | ClCCN(CC1=CC=CC=C1)C | C10H14ClN
